Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
atorvastatin / Lipitor
 
Attending: ___.
 
Chief Complaint:
Urinary frequency, bilateral hand weakness
 
Major Surgical or Invasive Procedure:
___ - C6 corpectomy and fusion

 
History of Present Illness:
___ is a ___ woman who drives for a living was in a car 
accident. She started having neck pain afterwards. Eventually, 
after conservative treatments were fairly ineffective, an MRI 
was obtained. It showed significant kyphotic changes with disc 
protrusions at C5-6 and C6-7 and cord compression and abutment. 
She does have some myelopathic features. She has urinary 
frequency and she also drops things. She presents for elective 
C6 corpectomy and fusion.
 
Past Medical History:
COPD, Dyslipidemia, Reflux, C-section x 2, trigger finger 
release
 
Social History:
___
Family History:
NC.
 
Physical Exam:
Upon Discharge:
She is awake, alert, and cooperative with the exam. She 
complains of left shoulder pain and neck discomfort. She is 
oriented to self, location, and date. A soft cervical collar is 
in place. She moves all her extremities with ___ strength. 
Sensation is intact to light touch. Her dressing is clean, dry, 
and intact. 
 
Pertinent Results:
Please see OMR for relevant imaging findings.
 
Brief Hospital Course:
___ is a ___ year old female with cervical stenosis who presents 
for elective C6 corpectomy and fusion.

#Cervical stenosis
The procedure was uncomplicated. She is to wear a soft cervical 
collar at all times except when showering. For further procedure 
details, please see separately dictated operative report by Dr. 
___. The patient was extubated in the OR and transported to the 
PACU for post-procedure monitoring. Once stable, she was 
transferred to the floor. On POD1, routine post operative xrays 
showed appropriate placement of the hardware. Her pain was well 
controlled on oral medications. She was tolerating a diet and 
ambulating independently. Her vital signs were stable and she 
was afebrile. She was discharged to home.
 
Medications on Admission:
Simvastatin 40mg Daily, Tramadol 50mg TID PRN Pain, Aspirin 81mg 
Daily, Omeprazole  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Diazepam 5 mg PO Q6H:PRN muscle spasm 
RX *diazepam 5 mg 1 tablet by mouth every six hours as needed 
for muscle spasm Disp #*30 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four hours as 
needed for pain Disp #*60 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
___
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath 
the skin. You do not need suture removal. 
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•You must wear your soft cervical collar at all times. You may 
remove it briefly for skin care and showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•You may restart your Aspirin in 5 days (___). Please do NOT 
take any other blood thinning medication (Ibuprofen, Plavix, 
Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, and Ibuprofen etc… for 2 weeks.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___